Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old man, past medical history of
melanoma, psoriatic arthritis, and HTN, who presents with
seizures. 

He was in his usual state of health.  He was a passenger in his
friends plane,  as they were flying from ___ to ___ for breakfast. He was taking photos out of the window. 
The next thing he remembers is waking up on their return to
___ and seeing the paramedics.  He was told by his friends
that he looked gray and blank, and that he had a seizure lasting
a few minutes.  He had a tongue bite on the right and had loss 
of urine.  His friends turned the plane around and flew to 
___ which took approximately 10 minutes and they were met 
by the EMS when they landed.  He noted that he was slightly 
confused as to what had happened but he is currently back to his 

baseline.  He was taken to an outside hospital, where he had a 
second seizure and then was brought to ___.  He denies any 

prior history of seizures.  He denies any recent illnesses or 
infectious symptoms. 

On seizure ROS: He denies a rising sensation, déjà ___, funny
smells or tastes, or ___ previously or prior to seizures
today.  He denies any warning symptoms prior to the 2 seizures 
he
had.  He does note he had a prior concussion but there is no 
loss
of consciousness.  He denies any prior brain infections, 
strokes,
or brain surgeries.

Regarding his melanoma history, he states he has had in situ
melanoma for several years recurrent while on Embrel for 
psoriatic 
arthritis, but was switched to Humira and was free of melanoma 
recurrence for ___ years.  In the past year he was noted to 
have 
fluctuating groin lymphadenopathy.  A lymph node became 
consistently
enlarged in ___ and was then resected in ___, 
positive for melanoma.  During this time he had a whole-body PET 
scan and had an 
MRI brain which was negative for any metastatic disease.

He is scheduled for a PET on ___ with a follow-up with 
his
oncologist on ___.  His oncologist is Dr. ___ at ___.

Per OSH documents Review: He was evaluated at 9:15 AM at the
outside hospital.  A CT head was obtained revealing frontal lobe
mass with mild edema.  He had a 1 minute GTC at the OSH, for
which he was given 1 g of IV Keppra as well as 1 mg Ativan.  The
patient initially requested ___ for
admission, but they were on diversion so they declined the
transfer.  He was amenable to transfer to ___.

On neuro ROS, the pt endorses generalized upper body weakness,
but he denies headache, loss of vision, blurred vision, 
diplopia,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss. Denies cough,
shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN
Psoriatic Arthritis
Melanoma in situ
GERD 
 
Social History:
___
Family History:
Adopted. 
 
Physical Exam:
On admission:
Physical Exam:
Vitals: 
98.7 106 117/73 17 94% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Breathing comfortably on room air
Cardiac: RRR
Abdomen: soft
Extremities: Artitic fingers bilaterally 
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Mildly inattentive, able to name ___ 
backward
with 1 mistake. Able to follow complex commands on second
attempt. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ -> ___ cue -> ___ Multiple
choice at 5 minutes. There was no evidence of apraxia or 
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.  Fundoscopic
exam revealed no papilledema on R eye, difficulty visualizing L
eye. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: symmetric shoulder shrug
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham TA ___ 
L  5    ___    ___    5  5     5     5   
R  5    ___    ___    5  5     5     5   
*limitation on flexion of wrist ___ to arithritis but fully
strength on testing.  

-Sensory: No deficits to light touch, pinprick,  proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   0
R  1  1    1    1   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF  bilaterally.

-Gait: Not tested 

====

On discharge:
Neurology:
- Mental status: A&Ox3, tells cogent history, no dysarthria. 
Recall ___ at 5min. Unable to perform serial 7s accurately. 
Repetition, reading intact. 
- CN: unchanged from admission except for a left nasolabial fold 
flattening
- Motor: 
  Delt Bic Tri WrE  FE  IP Quad Ham TA ___ 
L  5-   ___   ___    5  5     5     5   
R  5    ___   ___    5  5     5     5   
- Sensory, coordination, and gait are unchanged from admission
 
Pertinent Results:
Laboratory Data:
Lactate:1.0

Trop-T: <0.01  

136  98  14  101   AGap=17 
3.7  21  0.8  
  
Ca: 8.5 Mg: 2.2 P: 3.0

ALT: 22 AP: 70 Tbili: 0.7 Alb: 4.3 
AST: 29 LDH:  Dbili:  TProt:  
___:  Lip: 23     

Serum Tox Negative 

 85 
8.3  14.7  207 
 40.0  
 N:83.5 L:11.8 M:4.0 E:0.1 Bas:0.2 ___: 0.4 Absneut: 6.94
Abslymp: 0.98 Absmono: 0.33 Abseos: 0.01 Absbaso: 0.02  

___: 11.0  PTT: 29.3  INR: 1.0 
 

OSH Labs notable for Na 130, K 3.3, WBC 5. Potasium repleted
prior to transfer

===
NCHCT: 2 hyperintense lesions, one in the right frontal the 
other in the left temporal area

MRI brain with and without contrast (PRELIMINARY READ, PLEASE 
CALL BACK FOR FORMAL READ):
EXAMINATION: MR HEAD W AND W/O CONTRAST T___ MR HEAD 
  
INDICATION: ___ year old man with known melanoma presents with 
seizure and two new hyperdense lesions on NCHCT.// eval for 
metastatic disease 
  
TECHNIQUE: Sagittal and axial T1 weighted imaging were 
performed. After 
administration of 9 mL of Gadavist intravenous contrast, axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T1 
technique. Sagittal 
MPRAGE imaging was performed and re-formatted in axial and 
coronal 
orientations. 
  
COMPARISON: ___ CT head without contrast 
  
FINDINGS:  
  
There is a 22 x 18 x 23 mm (AP, TV, SI) enhancing mass with 
associated 
hemorrhage and a small amount of vasogenic edema within the 
right middle 
frontal gyrus. There is also a 20 x 20 x 20 mm enhancing mass 
with associated hemorrhage within the temporal horn left lateral 
ventricle, likely within the choroid plexus. 
  
No other abnormal intracranial enhancement is identified. No 
acute infarct 
intracranial hemorrhage is identified. There is no midline 
shift. The 
ventricles, sulci, and cisterns appear normal. The major 
vascular flow voids are preserved. The orbits are grossly 
unremarkable. 
  
IMPRESSION:  
  
Intracranial hemorrhagic metastasis within the right middle 
frontal gyrus and likely choroid plexus of the temporal horn of 
the left lateral ventricle, as identified on recent CT. No acute 
infarct. 
 
 
Brief Hospital Course:
___ year-old who presents with 2 GTC seizures found to have two 
well circumscribed hyperdensities concerning for metastatic 
disease from known melanoma. He is back to his baseline. 
Neurologic exam notable for difficulty recalling objects at 5min 
(able to recall ___ only), L nasolabial fold flatting, and very 
mild weakness in his left deltoid and left iliopsoas muscles. 
Labs are unremarkable but OSH labs notable for sodium of 130. 
His imaging is concerning for hyperdense well circumscribed 
lesions with minimal edema. MRI brain with and without contrast 
was done and showed intracranial hemorrhagic metastases in the 
right middle frontal gyrus and left temporal horn. This is not a 
final read. 

Transitional issues:
- f/u with outpatient oncologist for further treatment
- f/u final MRI read
- pt will need imaging discs to bring over to oncologist, he 
will come pick them up prior to his appointment at ___
- continue keppra 1000mg BID
- pt counseled on seizure safety precautions
 
Medications on Admission:
Omeprazole 20 mg 3x per week
Humaira q 2 weeks (next dose on ___, last dose ___ 
amlodipine 5 mg daily 
TRIAMT/HCTZ TAB ___  daily 
ETODOLAC 500 MG TABLET BID 
Losartan 50 mg daily 
 
Discharge Medications:
1.  etodolac 500 mg oral BID  
2.  Humira (adalimumab) 10 mg/0.2 mL subcutaneous EVERY 2 WEEKS  

3.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
4.  amLODIPine 5 mg PO DAILY  
5.  Losartan Potassium 50 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizure - likely due to newly noted brain lesions, concerning 
for metastases

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after you had two seizures yesterday. We did a 
CT scan of your brain and an MRI of your brain as well and saw 
two masses in your right frontal lobe and left temporal lobe 
concerning for melanoma metastases. You were started on a new 
medications called LEVETIRACETAM (KEPPRA) 1000mg twice per day. 
Please take this medication as prescribed to prevent future 
seizures. 

Please call your oncologist tomorrow morning to let them know 
what happened this weekend. Please also call the radiology 
department at ___ to get your MRI images to bring to 
your oncologist. 

Per MA state law, please do not drive for 6 months. Please also 
avoid baths, swimming alone, or climbing on objects without 
having someone with you. 

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___